US03978058
To a suspension of 5.0 parts of 2-amino-8-chloro-3,4-dihydro-6-phenyl-1,5-benzodiazocine in 100 parts by volume of benzene is added 3.0 parts by volume of diketene at 25°C with stirring. The reaction mixture is further stirred for 1.5 hour. Resulting colorless crystals are collected by filtration, washed with ether, whereby 1-acetoacetyl-8-chloro-2-imino-6-phenyl-1,2,3,4-tetrahydro-1,5-benzodiazocine is obtained. Melting point 149°-150°C.

reactant | 2-amino-8-chloro-3,4-dihydro-6-phenyl-1,5-benzodiazocine | NC1=NC2=C(C(=NCC1)C1=CC=CC=C1)C=C(C=C2)Cl | C16H14ClN3
reactant | diketene | C=C1CC(=O)O1 | C4H4O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | 1-acetoacetyl-8-chloro-2-imino-6-phenyl-1,2,3,4-tetrahydro-1,5-benzodiazocine | C(CC(=O)C)(=O)N1C(CCN=C(C2=C1C=CC(=C2)Cl)C2=CC=CC=C2)=N | C20H18ClN3O2
